US06713471B1
To a solution of ethyl 2,3-dihydo-1H-inden-2-ylacetate (285 mg, 1.39 mmol) in Et2O (5 mL) at 0° C. under N2 was added LAH (53 mg, 1.39 mmol). After stirring for 40 minutes at 0° C., 0.4 mL of H2O was added to quench the reaction. The reaction mixture was diluted with EtOAc (100 mL) and MgSO4 was added with stirring. The reaction mixture was then filtered and concentrated in vacuo to a clear oil. 2-(2,3-dihydro-1H-inden-2-yl)ethanol was isolated without further purification.

reactant | ethyl 2,3-dihydo-1H-inden-2-ylacetate | 1.39 mmol, 285 mg | C1C(CC2=CC=CC=C12)CC(=O)OCC | C13H16O2
reactant | LAH | 1.39 mmol, 53 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 0.4 mL | O | H2O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
product | 2-(2,3-dihydro-1H-inden-2-yl)ethanol | C1C(CC2=CC=CC=C12)CCO | C11H14O
